US06060472
To a solution of 3-[1-phenyl-1-(tetrahydropyran-2-yloxy)methyl]-5-chloro-[1,2,4]thiadiazole (3.11 g, 10 mmol) in DMF (50 mL) was added 1-(2-pyridyl)piperazine (3.26 g, 20 mmol) dissolved in DMF (5 mL) followed by triethylamine (4.04 g, 40 mmol). The resulting mixture was stirred at room temperature for 30 min then diluted with water (150 mL) and ethyl acetate (150 mL). The organic layer was collected, washed with water (100 mL), dried (sodium sulfate), filtered and concentrated in vacuo. Purification by column chromatography on silica gel using a solvent gradient of a mixture of hexane and ethyl acetate (7/3 and 1/1) afforded 1 -{3-[phenyl-(tetrahydropyran-2-yloxy) methyl]-[1,2,4]thiadiazol -5-yl}4-pyridin-2-yl-piperazine (4.31 g, 98.4%) as a colorless foam and as a mixture of diastereoisomers. 1H-NMR (CDCl3) δ8.22 (d, J=4.6 Hz, 1H, Py-H), 7.51-7.58 (m, 3H), 7.27-7.39 (m, 3H), 6.68-6.71 (m, 2H), 5.93 and 5.88 (s, 0.5H each, αH), 4.91 and 4.67 (t, J=3.2 Hz, 0.5H each, OCHO), 3.51-4.02 (m, 2H, OCH2), 3.69-3.71 (m, 4H, 2CH2), 3.63-3.64 (m, 4H, 2CH2), 1.51-1.97 (m, 6H, 3CH2).

reactant | 3-[1-phenyl-1-(tetrahydropyran-2-yloxy)methyl]-5-chloro-[1,2,4]thiadiazole | 10 mmol, 3.11 g | C1(=CC=CC=C1)C(OC1OCCCC1)C1=NSC(=N1)Cl | C14H15ClN2O2S
reactant | 1-(2-pyridyl)piperazine | 20 mmol, 3.26 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1 -{3-[phenyl-(tetrahydropyran-2-yloxy) methyl]-[1,2,4]thiadiazol -5-yl}4-pyridin-2-yl-piperazine | 4.31 g, 98.4% | C1(=CC=CC=C1)C(C1=NSC(=N1)N1CCN(CC1)C1=NC=CC=C1)OC1OCCCC1 | C23H27N5O2S
